US05061701
c) Methyl 3α, 6β-dihydroxy-7-keto-5β-cholanoate
A solution of methyl 3α-acetoxy-6-bromo-7-keto-5β-cholanoate (10.0 g, 19.025 mmoles) in methanol (600 ml) was added to a solution of potassium hydroxide (24 g) in water (100 ml), dropwise, in 1 hour. The resulting mixture was left to react for 48 hours under argon atmosphere, with magnetic stirring. The reaction mixture was diluted with water (100 ml), acidified with 10% hydrochloric acid and extracted with chloroform (3×200 ml). The combined organic phases were washed with brine (1×50 ml) and dried over sodium sulfate. After evaporation of the solvent, the residue (7.7 g) was reacted with p-toluenesulfonic acid (0.5 g) in methanol (250 ml) under magnetic stirring for one night. The reaction mixture was concentrated under vacuum, taken up into chloroform (150 ml) and washed first water (3 x 30 ml), then with brine (1×50 ml). The organic phase was dried over sodium sulfate and concentrated under vacuum. The residue (8.0 g) was subjected to flash chromatography on silica, eluting with chloroform/methanol 98:2, to obtain 4.5 g of a pure product (56%).

reactant | methyl 3α-acetoxy-6-bromo-7-keto-5β-cholanoate | 19.025 mmoles, 10.0 g | C(C)(=O)O[C@H]1C[C@H]2C(C([C@H]3[C@@H]4CC[C@H]([C@@H](CCC(=O)OC)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)=O)Br | C27H41BrO5
reactant | potassium hydroxide | 24 g | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
reactant | water | 100 ml | O | H2O
reactant | water | 100 ml | O | H2O
solvent | methanol | 600 ml | CO | CH4O
product | Methyl 3α, 6β-dihydroxy-7-keto-5β-cholanoate | 4.5 g, 56% | O[C@H]1C[C@H]2[C@@H](C([C@H]3[C@@H]4CC[C@H]([C@@H](CCC(=O)OC)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)=O)O | C25H40O5
